US07902373B2
Piperidin-4-yl-carbamic acid tert-butyl ester (30.0 g, 0.189 mol), 5-chloro-1-methyl-1H-tetrazole (28.8 g, 0.242 mol) and triethylamine (80 mL, 0.573 mol) were added to a mixture of n-butanol (80 mL) and water (80 mL) and the reaction mixture heated to 80° C. for 5 hours. The reaction was cooled to room temperature and stirred at this temperature overnight. The resulting precipitate was filtered off and washed with water (2×25 mL) and then dried to give tert-butyl[1-(1-methyl-1H-tetrazol-5-yl)-piperidin-4-yl]-carbamate as a white powder (41.8 g). 1H NMR (300 MHz, DMSO-d6) ppm 1.39 (s, 9H) 1.44-1.65 (qd, J=12, 4 Hz, 2H) 1.75-1.92)dd, J=13, 3 Hz, 2H) 2.95-3.16 (td, J=13, 3 Hz, 2H) 3.34-3.50 (broad s, 1H) 3.50-3.65 (dt, J=13, 3 Hz, 2H) 3.85 (s, 3H) 6.83-7.04 (m, 1H).

reactant | Piperidin-4-yl-carbamic acid tert-butyl ester | 0.189 mol, 30.0 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | 5-chloro-1-methyl-1H-tetrazole | 0.242 mol, 28.8 g | ClC1=NN=NN1C | C2H3ClN4
reactant | triethylamine | 0.573 mol, 80 mL | C(C)N(CC)CC | C6H15N
reactant | n-butanol | 80 mL | C(CCC)O | C4H10O
solvent | water | 80 mL | O | H2O
product | tert-butyl[1-(1-methyl-1H-tetrazol-5-yl)-piperidin-4-yl]-carbamate | 41.8 g | C(C)(C)(C)OC(NC1CCN(CC1)C1=NN=NN1C)=O | C12H22N6O2
